US07622492B2
Trifluoroacetic acid (15.7 mL) was added to a solution of N-methyl-N′-((1S,4S)-4,7,7-trimethyl-3-oxo-bicyclo[2.2.1]heptane-2-carbonyl)-hydrazinecarboxylic acid tert-butyl ester (6.13 g, 18.9 mmol) in dichloromethane (15.7 mL) at 0° C. The reaction mixture was stirred at 0° C. for 30 min, at room temperature for 1 h, and then heated at reflux for 6 h. Following overnight stirring at room temperature, the solvent was evaporated. The residue was taken up in dichloromethane (100 mL) and washed with water (2×100 mL) and brine (100 mL), dried (sodium sulfate), filtered, evaporated and purified using a Biotage system eluting with 2% methanol/dichloromethane to give (4R,7S)-1,7,8,8-tetramethyl-1,2,4,5,6,7-hexahydro-4,7-methano-indazol-3-one (2.46 g, 63%) as a white solid.

reactant | Trifluoroacetic acid | 15.7 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | N-methyl-N′-((1S,4S)-4,7,7-trimethyl-3-oxo-bicyclo[2.2.1]heptane-2-carbonyl)-hydrazinecarboxylic acid tert-butyl ester | 18.9 mmol, 6.13 g | C(C)(C)(C)OC(=O)N(NC(=O)C1[C@@H]2CC[C@](C1=O)(C2(C)C)C)C | C17H28N2O4
solvent | dichloromethane | 15.7 mL | ClCCl | CH2Cl2
product | (4R,7S)-1,7,8,8-tetramethyl-1,2,4,5,6,7-hexahydro-4,7-methano-indazol-3-one | 2.46 g, 63% | CN1NC(C=2[C@@H]3CC[C@](C12)(C3(C)C)C)=O | C12H18N2O
